US08039450B2
A mixture of 4-fluoro-3-methoxymethoxybenzonitrile (33.0 g, 182 mmol), 4-bromo-3-(1,3-dioxolan-2-yl)phenol (44.6 g, 182 mmol), and potassium carbonate (30.1 g, 218 mmol) in N,N-dimethylformamide (370 mL) was stirred at 100° C. under nitrogen atmosphere overnight. The mixture was poured into ethyl acetate/water. The organic layer was washed with brine and dried on anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was passed silica gel short column (3:1 hexane/ethyl acetate) followed by trituration with hexane/ethyl acetate to give 4-(4-bromo-3-(1,3-dioxolan-2-yl)phenoxy)-3-methoxymethoxybenzonitrile (32.6 g, 44%),

reactant | 4-fluoro-3-methoxymethoxybenzonitrile | 182 mmol, 33.0 g | FC1=C(C=C(C#N)C=C1)OCOC | C9H8FNO2
reactant | 4-bromo-3-(1,3-dioxolan-2-yl)phenol | 182 mmol, 44.6 g | BrC1=C(C=C(C=C1)O)C1OCCO1 | C9H9BrO3
reactant | potassium carbonate | 218 mmol, 30.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate water | C(C)(=O)OCC.O
solvent | N,N-dimethylformamide | 370 mL | CN(C=O)C | C3H7NO
product | 4-(4-bromo-3-(1,3-dioxolan-2-yl)phenoxy)-3-methoxymethoxybenzonitrile | 32.6 g, 44% | BrC1=C(C=C(OC2=C(C=C(C#N)C=C2)OCOC)C=C1)C1OCCO1 | C18H16BrNO5
